US09382356B2
(ii) Synthesis of di(p-chlorophenyl)cyclopentadienyl(octamethyloctahydrodibenzofluorenyl)methane
A reaction vessel equipped with a dropping funnel was charged with 40 ml of dehydrated tetrahydrofuran and 2.35 g (6.08 mmol) of octamethyloctahydrodibenzofluorene synthesized in Synthesis Example 2-1 under a nitrogen atmosphere. Then, 4.62 ml (7.30 mmol) of a 1.58 mol/L hexane solution of n-butyllithium was slowly added dropwise and while cooling this solution to 0° C., and the mixture was stirred. Then, 0.86 ml (7.90 mmol) of 1,3-dimethyl-2-imidazolidinone was added to the solution and the mixture was stirred for 30 minutes. Subsequently, the dropping funnel was charged with a solution prepared by dissolving 2.00 g (6.68 mmol) of 6,6-di{p-chlorophenyl}fulvene in 30 ml of dehydrated tetrahydrofuran. The solution was slowly added dropwise while cooling the solution to −78° C. The mixture was stirred for one day while returning the temperature thereof slowly to room temperature. This reaction solution was subjected to extraction with diethyl ether. The organic layer was washed with 1 N hydrochloric acid, a saturated aqueous solution of sodium hydrogen carbonate and saturated brine. The organic phase collected by separation was dried over anhydrous magnesium sulfate and magnesium sulfate was separated by filtration. The filtrate was subjected to distillation under reduced pressure using a rotary evaporator to remove the solvent. The residue was purified by using a silica gel column and recrystallized from toluene to obtain a target product (yield 0.714 g (17%)). The target product was identified by 1H-NMR and FD-MS spectroscopy.

reactant | octamethyloctahydrodibenzofluorene | 6.08 mmol, 2.35 g | CC1(C(C(C(C=2C1C1C(=C3C=4C=CC=CC4CC23)C=CCC1)(C)C)(C)C)(C)C)C | C29H38
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,3-dimethyl-2-imidazolidinone | 7.90 mmol, 0.86 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | 6,6-di{p-chlorophenyl}fulvene | 6.68 mmol, 2.00 g | ClC1=CC=C(C=C1)C(=C1C=CC=C1)C1=CC=C(C=C1)Cl | C18H12Cl2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.58 mol/L | CCCCCC | C6H14
product | di(p-chlorophenyl)cyclopentadienyl(octamethyloctahydrodibenzofluorenyl)methane | ClC1=CC=C(C=C1)C(C1(C(C(C(C2(C3C(=C4C=5C=CC=CC5CC4=C21)C=CCC3)C)(C)C)(C)C)(C)C)C)(C3C=CC=C3)C3=CC=C(C=C3)Cl | C47H50Cl2
